US07838524B2
1-{5-tert-Butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea
To a solution of 3-[3-(5-amino-3-tert-butyl-pyrazol-1-yl)-phenoxy]-propan-1-ol (400 mg, 1.38 mmol) and phenyl chloroformate (324 mg, 2.07 mmol) in THF (14 mL) was added cesium carbonate (673 mg, 2.07 mmol). The mixture was stirred at room temperature for 4 h, additional phenyl chloroformate (108 mg, 0.69 mmol) was added, and then the mixture was stirred for an additional two hours. The reaction mixture was washed with saturated NaHCO3 (3×30 mL), water, brine, dried (Na2SO4), and evaporated at reduced pressure to give the crude carbamate intermediate {5-tert-butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-carbamic acid phenyl ester (500 mg). Step 2. To a solution of {5-tert-butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-carbamic acid phenyl ester (200 mg, 0.49 mmol) in THF was added 4-(pyridin-4-yloxy)-phenylamine (109 mg, 0.59 mmol). The reaction mixture was heated at 60° C. for 16 h. The reaction mixture was cooled to room temperature, concentrated at reduced pressure, and the residue was dissolved in DMF and methanol. The product was isolated by preparative HPLC, and the HPLC fraction containing the desired product was concentrated at reduced pressure and then partitioned between EtOAc (20 mL) and saturated aq Na2CO3 (10 mL). The organic layer was dried over Na2SO4 and evaporated to give 1-{5-tert-butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea (51.3 mg, 21%). 1H-NMR (DMSO-d6) δ 7.50 (d, 2H), 7.10 (m, 5H), 6.90 (d, 2H), 6.70 (m, 3H), 6.40 (s, 1H), 4.0 (t, 2H), 3.60 (t, 3H), 1.80 (m, 2H), 1.30 (s, 9H); MS LC-MS [M+H]+=502.1, RT=2.36 min.

reactant | {5-tert-butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-carbamic acid phenyl ester | 0.49 mmol, 200 mg | C1(=CC=CC=C1)OC(NC=1N(N=C(C1)C(C)(C)C)C1=CC(=CC=C1)OCCCO)=O | C23H27N3O4
reactant | 4-(pyridin-4-yloxy)-phenylamine | 0.59 mmol, 109 mg | N1=CC=C(C=C1)OC1=CC=C(C=C1)N | C11H10N2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-{5-tert-Butyl-2-[3-(3-hydroxy-propoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)OCCCO)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C28H31N5O4
